US08222414B2
Step A: (S)-2-BOC-amino-succinic acid 4-isopropylester 1-methylester
Commercially available (S)-2-BOC-amino-succinic acid 1-methyl ester (2.4 g, 10 mmol) was dissolved in DCM (30 mL), and triethylamine (2.8 mL, 20 mmol) was added thereto. To the mixture were added isopropanol (660 mg, 11 mmol), EDC (2.5 g, 26 mmol) and HOBt (2.3 g, 30 mmol), and the mixture was stirred for 4 h at room temperature. The reaction was quenched by saturated aqueous NaHCO3 solution. The reaction mixture was extracted with EtOAc, washed with saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography to give the title compound (2.5 g, Yield 87%).

reactant | (S)-2-BOC-amino-succinic acid 1-methyl ester | 10 mmol, 2.4 g | COC([C@@](CC(=O)O)(C(=O)OC(C)(C)C)N)=O | C10H17NO6
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | isopropanol | 11 mmol, 660 mg | C(C)(C)O | C3H8O
reactant | EDC | 26 mmol, 2.5 g
reactant | HOBt | 30 mmol, 2.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-BOC-amino-succinic acid 4-isopropylester 1-methylester | 2.5 g, Yield 87% | COC([C@@](CC(=O)OC(C)C)(C(=O)OC(C)(C)C)N)=O | C13H23NO6
